* source LATCHING LOAD SWITCH
V_V1         VBAT 0 4.4Vdc
R_R1         N15538 VBAT  10k TC=0,0 
R_R2         N15523 N15538  100k TC=0,0 
R_R3         N15649 N15643  20k TC=0,0 
R_R4         0 N15643  10k TC=0,0 
R_R5         0 N15719  1k TC=0,0 
C_C1         0 N15523  1u  TC=0,0 
D_D1         N15643 N15719 Dbreak 
X_M2         N15538 VBAT N15643 BSS110/INF
X_M1         N15649 0 N15538 BSS138/INF
V_V2         N16344 0  
+PULSE 0 2 0.8 0 0 5n 2
X_M3         N16782 0 N15649 BSS138/INF
X_U1         N15523 N15649 Sw_tClose PARAMS: tClose=0.25 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_S1    N16344 0 N16782 VBAT SCHEMATIC1_S1 
R_R6         0 N16782  1k TC=0,0 

.subckt SCHEMATIC1_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1Meg Ron=1 Voff=0 Von=2
.ends SCHEMATIC1_S1
